US05847092
By working analogously to what described in example 2 and by using 4-methoxybenzoic acid (33 mmoles) and N-(6-aminohexanoyl)glycine ethyl ester (39.5 mmoles), prepared as described in example 3, N-[6-[(4-methoxybenzoyl)amino]hexanoyl]glycine ethyl ester was obtained as a crude product, used as such in the subsequent reactions.

reactant | 4-methoxybenzoic acid | 33 mmoles | COC1=CC=C(C(=O)O)C=C1 | C8H8O3
reactant | N-(6-aminohexanoyl)glycine ethyl ester | 39.5 mmoles | C(C)OC(CNC(CCCCCN)=O)=O | C10H20N2O3
product | N-[6-[(4-methoxybenzoyl)amino]hexanoyl]glycine ethyl ester | C(C)OC(CNC(CCCCCNC(C1=CC=C(C=C1)OC)=O)=O)=O | C18H26N2O5
